US08076345B2
D) (S)-Cyclopropyl(6-(trifluoromethyl)pyridin-3-yl)methanamine
(S)—N—((R)-cyclopropyl(6-(trifluoromethyl)pyridin-3-yl)methyl)-2-methylpropane-2-sulfinamide (0.245 g, 0.000765 mol), ethanol (2.7 g, 0.059 mol), and 4.0 M of hydrogen chloride in dioxane (2.7 mL, 0.011 mol) are combined and stirred for 30 minutes. The mixture is allowed to stir overnight. The solvent is removed and the residue is dissolved in ethanol. After washing with ethanol for 3 times, the mixture is concentrated and the residue is dried under high vacuum overnight to obtain the title compound.

reactant | (S)—N—((R)-cyclopropyl(6-(trifluoromethyl)pyridin-3-yl)methyl)-2-methylpropane-2-sulfinamide | 0.000765 mol, 0.245 g | C1(CC1)[C@@H](N[S@@](=O)C(C)(C)C)C=1C=NC(=CC1)C(F)(F)F | C14H19F3N2OS
reactant | ethanol | 0.059 mol, 2.7 g | C(C)O | C2H6O
reactant | hydrogen chloride | 4.0 M | Cl | ClH
reactant | dioxane | 0.011 mol, 2.7 mL | O1CCOCC1 | C4H8O2
product | (S)-Cyclopropyl(6-(trifluoromethyl)pyridin-3-yl)methanamine | C1(CC1)[C@H](N)C=1C=NC(=CC1)C(F)(F)F | C10H11F3N2
